US04426524
A stirred solution of 37.6 g (0.192 mol) of 1-(3-thienyl)-3-methylcyclohexanol and 0.5 g of p-toluenesulfonic acid in 200 mL of toluene was heated under reflux, and by-product water was collected in a Dean-Stark trap attached to the reaction vessel. After about 16.5 hours, the reaction mixture was cooled and concentrated under reduced pressure to give a residual oil. The oil was subjected to distillation under reduced pressure using a Kugelrohr distilling system to give 11.6 g of 3-methyl-1-(3-thienyl)cyclohexene b.p. 105° C.±5° C./0.25 mm.

reactant | 1-(3-thienyl)-3-methylcyclohexanol | 0.192 mol, 37.6 g | S1C=C(C=C1)C1(CC(CCC1)C)O | C11H16OS
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-1-(3-thienyl)cyclohexene | 11.6 g | CC1C=C(CCC1)C1=CSC=C1 | C11H14S
